US04317820
10 g of 5-hydroxy-3,4-dihydrocarbostyril was added to 100 ml of methanol having dissolved therein 3.8 g of potassium hydroxide and the mixture was stirred at room temperature for 30 minutes followed by removing methanol under reduced pressure. Benzene was added to the residue to form crystals and then benzene was removed by evaporation. The residue thus-obtained was suspended in 50 ml of dimethylformamide and 10.6 g of methanesulfonyl chloride was added dropwise to the suspension while ice-cooling with stirring. After adding 3.5 g of methanesulfonyl chloride, the resulting mixture was stirred at room temperature for 4 hours. After the completion of the reaction, the solvent was removed under reduced pressure and the residue was purified through a silica gel column chromatography (silica gel:Wako C-200, a trade name for a product of Wako Junyaku Co., Ltd.; eluant:chloroform). Recrystallization of the eluate from water-containing ethanol gave 5.7 g of 5-methanesulfonyloxy-3,4-dihydrocarbostyril as colorless prismatic crystals having a melting point of 227° to 231° C.

reactant | 5-hydroxy-3,4-dihydrocarbostyril | 10 g | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
reactant | methanol | 100 ml | CO | CH4O
reactant | potassium hydroxide | 3.8 g | [OH-].[K+]
reactant | methanesulfonyl chloride | 10.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 3.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-methanesulfonyloxy-3,4-dihydrocarbostyril | 5.7 g | CS(=O)(=O)OC1=C2CCC(NC2=CC=C1)=O | C10H11NO4S
